* POGO block-7 HP — Q-cell Iabc bias (§D/M5; R104/R105 R_Iabc 1M->100k, change 0020)
* Mirror of block-5/sim/q_cell.cir — block-7's Q cell (U51, cell A=L cell B=R) has the
*   identical R_Iabc math; this deck is the block-7-local copy.
* The LM13700 amplifier-bias (Iabc) pin sits ~2*Vbe above V- (≈ -10.8V at -12V rails),
*   NOT GND. So Iabc = (V_ires - V_pin)/R_Iabc — it is just the resistor current, no
*   LM13700 model needed (Iabc pin modelled as a fixed DC potential, read i(Vsrc)).
* BUG (stale spec, see report): R_Iabc=1M from V_ires~0 -> ~10.8µA (≈14x the ~0.74µA the
*   old spec assumed) -> Q pinned at min.
* FIX (netlist R104/R105 = 100k): V_ires driven negative to ~-10.73V near the pin ->
*   Iabc ~0.7µA -> Q ~0.74 (Butterworth). Q = V_T_diff/(Iabc*R_in), V_T_diff=52mV,
*   R_in=100k (aux/filter/q-control §"Q Formula"; HPFilter.hpp:21 Q=0.5*pow(4000,res) -> Butterworth
*   floor ~0.7 at res=0).

.param Vpin=-10.8          ; LM13700 Iabc pin ≈ 2*Vbe above -12V rail

* --- BUGGY: 1M from V_ires = 0 (the stale spec.md:152 "R_Iabc=1MΩ / 0.74V" assumption) ---
Vir_b nbug 0 DC 0
Rbug nbug pinb 1e6
Vpb pinb 0 DC {Vpin}

* --- FIXED: 100k (R104/R105) from V_ires = -10.73 (the Q≈0.7 Butterworth setpoint) ---
Vir_f nfix 0 DC -10.73
Rfix nfix pinf 100k
Vpf pinf 0 DC {Vpin}

.control
  op
  let iabc_bug_uA = i(Vpb)*1e6        ; buggy Iabc (µA) -> ~10.8 (NOT the claimed 0.74)
  let iabc_fix_uA = i(Vpf)*1e6        ; fixed Iabc (µA) at V_ires=-10.73 -> ~0.7µA
  let q_fix = 0.052/(i(Vpf)*1e5)      ; resulting Q (R_in=100k): ~0.74 (Butterworth)
  print iabc_bug_uA iabc_fix_uA q_fix
.endc
.end
